US07855215B2
Step 71.2: 5-(6-Amino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
4.58 g (10.4 mMol) 5-(6-azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide in 150 ml THF are hydrogenated in the presence of 0.8 g Pd/C (10%; Engelhard 4505). The catalyst is filtered off and the filtrate concentrated. The residue is dissolved in EtOAc and H2O and the aqueous layer extracted twice with EtOAc. The organic layers are washed with brine, dried (Na2SO4) and concentrated, yielding the title compound: m.p.: 186-187° C.

reactant | 5-(6-azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 10.4 mMol, 4.58 g | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)N=[N+]=[N-])(F)F | C20H14F3N7O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.8 g | [Pd] | Pd
product | 5-(6-Amino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)N)(F)F | C20H16F3N5O2
